US07087579B2
A solution of 5-methyl-4-{[4-(cyclopropylidenemethyl)phenyl]methyl}-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.010 g) in methanol (2 mL) was added sodium methoxide (28% methanol solution, 0.0020 mL), and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure, and the residue was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol) to give 3-(β-D-glucopyranosyloxy)-5-methyl-4-{[4-(cyclopropylidenemethyl)phenyl]methyl}-1H-pyrazole (0.0070 g).

reactant | 5-methyl-4-{[4-(cyclopropylidenemethyl)phenyl]methyl}-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.010 g | CC1=C(C(=NN1)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)CC1=CC=C(C=C1)C=C1CC1 | C29H34N2O10
reactant | sodium methoxide | 0.0020 mL | C[O-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | 3-(β-D-glucopyranosyloxy)-5-methyl-4-{[4-(cyclopropylidenemethyl)phenyl]methyl}-1H-pyrazole | 0.0070 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=CC=C(C=C1)C=C1CC1)C | C21H26N2O6
